US07601838B2
2,4,6trimethyl benzene sulphonyl chloride (0.524 gm, 2.4 mmol) in dry acetone was added to a stirred solution of dl 1,2,3,4-tetrahydro-9H-pyrido(3,4-b)indole-3-amide (0.430 gm, 2.0 mmol) and dry triethylamine (0.56 ml, 4.0 mmol) in dry DMF (8 ml) during 15 and was allowed to stirr for 8 hrs. at room temperature. Water (20 ml) was added to the reaction mixture and extracted with chloroform (3×15 ml). The tract was dried over Na2SO4 and concentrated over reduced pressure to give 2-[2,4,6trimethylbenzenesulfonyl]-1,2,3,4,-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid amide which was purified by column chromatography over silica gel using 2% methanol chloroform as eluent Yield=0.35 gm (44.08%) m.p.=212° C.: Mass (FAB) m/z=398 (M+). IR (KBr cm−1): 3394, 3299, 1668, 1596, 1455, 1324, 1155, 752. H1NMR (200 MHz, DMSO d6) δ 2.30 (s, 3H), δ2.56-2.74 (m, 7H), δ3.55-3.62 (d, 1H), δ4.49-4.70 (m, 3H), δ5.17 (s, 1H), δ5.49 (s, 1H), δ6.96-7.77 (m, 6H). Molecular Formula=C21H23N3O3S.

reactant | 2,4,6trimethyl benzene sulphonyl chloride | 2.4 mmol, 0.524 gm | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
reactant | 1,2,3,4-tetrahydro-9H-pyrido(3,4-b)indole-3-amide | 2.0 mmol, 0.430 gm | C1NC(CC2=C1NC1=CC=CC=C21)C(=O)N | C12H13N3O
reactant | triethylamine | 4.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 20 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-[2,4,6trimethylbenzenesulfonyl]-1,2,3,4,-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid amide | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N1CC=2NC3=CC=CC=C3C2CC1C(=O)N | C21H23N3O3S
